US06071903
2-[(2-Aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionic acid, tert-butyl ester
A mixture of 0.60 g (1.28 mmol) of 3-hydroxy-2-[(4-methoxybenzenesulfonyl)-(2-nitrobenzyl)amino]propionic acid, tert-butyl ester and 1.45 g (6.45 mmol) of SnCl2.2H2O in 20 ml of methanol was heated in an oil bath at 90° C. for 2 hours. The solvent was removed under vacuum and ethyl acetate added to the residue. The mixture was neutralized with saturated sodium bicarbonate solution and filtered through diatomaceous earth. The ethyl acetate layer was separated and washed with H2O, brine and dried with Na2SO4. The solvent was removed under vacuum to give 0.30 g (53%) of a gum. Anal. for C21H28N2O6S: Calc'd: C, 57.8; H,6.5; N,6.4; Found: C, 57.8; H,7.0; N,6.2.

reactant | 3-hydroxy-2-[(4-methoxybenzenesulfonyl)-(2-nitrobenzyl)amino]propionic acid, tert-butyl ester | 1.28 mmol, 0.60 g | OCC(C(=O)OC(C)(C)C)N(CC1=C(C=CC=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)OC | C21H26N2O8S
reactant | SnCl2.2H2O | 6.45 mmol, 1.45 g | O.O.Cl[Sn]Cl
solvent | methanol | 20 ml | CO | CH4O
product | 2-[(2-Aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionic acid, tert-butyl ester | 0.30 g, 53% | NC1=C(CN(C(C(=O)OC(C)(C)C)CO)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C21H28N2O6S
